US09340547B2
a) (S)-tert-Butyl 1-(3-bromo-2-(pyridin-2-ylmethylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
Same procedure as described in preparation 133a was used from (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (374 mg, 0.96 mmols) and pyridine-2-ylmethanamine (0.30 ml, 2.87 mmols). After reverse phase chromatography the title compound was obtained (74 mg, 17%).

reactant | (S)-methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 0.96 mmols, 374 mg | BrC1=C(N(C=C1)NC([C@H](C)NC(=O)OC(C)(C)C)=O)C(=O)OC | C14H20BrN3O5
reactant | pyridine-2-ylmethanamine | 2.87 mmols, 0.30 ml | N1=C(C=CC=C1)CN | C6H8N2
product | (S)-tert-Butyl 1-(3-bromo-2-(pyridin-2-ylmethylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | BrC1=C(N(C=C1)NC([C@H](C)NC(OC(C)(C)C)=O)=O)C(NCC1=NC=CC=C1)=O | C19H24BrN5O4
